US04550105
In 4 ml of cold water is dissolved 85 mg of cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-carboxyethyloxyimino)acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid disodium salt (syn-isomer), and the solution is chromatographed on a column of Dowex 50W (H-form) resin (10 ml), elution being carried out with water. The UV absorbing fractions are pooled and concentrated under reduced pressure and the residue is chromatographed on a Sephadex LH-20 column and lyophilized to give cis-3-[2-(2-amino-4-thiazolyl)-2-(1met hyl-1-carboxyethyloxyimino)-acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid (syn-isomer) as a colorless powder.

reactant | cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-carboxyethyloxyimino)acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid disodium salt | 85 mg | [Na+].[Na+].NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)O)C.NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C)C(=O)O
solvent | water | 4 ml | O | H2O
product | cis-3-[2-(2-amino-4-thiazolyl)-2-(1met hyl-1-carboxyethyloxyimino)-acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)O)=O)=NOC(C)(C(=O)O)C | C14H17N5O10S2
